US05234946
408 mg of dimethyl furan-3,5-dicarboxylate [see J. Chem. Soc., Perkin I, 1130 (1973)] was dissolved in 4 ml of anhydrous tetrahydrofuran, and 59 mg of lithium aluminium hydride was added. The mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and ethyl acetate was added to extract it. The extract was worked up in a customary manner and purified by silica gel column chromatography [Wakogel C-200, 20 g; eluting solvent: hexane/ethyl acetate=2/1] to give 44 mg (yield 13%) of methyl 5-hydroxymethylfuran-3-carboxylate as a colorless oil.

reactant | dimethyl furan-3,5-dicarboxylate | 408 mg | O1C=C(C=C1C(=O)OC)C(=O)OC | C8H8O5
reactant | lithium aluminium hydride | 59 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | methyl 5-hydroxymethylfuran-3-carboxylate | 44 mg, yield 13% | OCC1=CC(=CO1)C(=O)OC | C7H8O4
